US08202873B2
Add 4-chlorobenzeneboronic acid (64 mg, 0.41 mmol) to a mixture 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (104 mg, 0.34 mmol), potassium carbonate (113 mg, 0.82 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.002 g, 0.002 mmol) in N,N-dimethylacetamide (2 mL) and water (1 mL). Purge with nitrogen and heat overnight at 110° C. Cool to room temperature add water (10 mL), extract with DCM (3×20 mL) combine and purify using high pH reverse phase HPLC to give 3′-(4-chloro-phenyl)-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (68 mg, 54.2%). MS (ES): m/z=383 [M+H]+.

reactant | 4-chlorobenzeneboronic acid | 0.41 mmol, 64 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 3′-chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.34 mmol, 104 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | C14H19ClN6
reactant | potassium carbonate | 0.82 mmol, 113 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.002 mmol, 0.002 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3′-(4-chloro-phenyl)-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 68 mg, 54.2% | ClC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | C20H23ClN6
